US05223510
c) 2-n-butyl 3-[4-(3-di-n-butylamino-propoxy)benzoyl] 7-carbethoxy indolizine acid oxalate
A mixture of 0.35 g (38 mmoles) of 2-n-butyl 7-carbethoxy indolizine and 14.2 g (38 mmoles) of 4-(3-di-n-butylamino-propoxy) benzoyl chloride is heated at 95°-100° C. for 4.5 h. The crude product obtained is dissolved in ethyl acetate and water and is neutralized by sodium hydrogen carbonate. The organic layer is separated and dried over magnesium sulfate. It is filtered and the solvent evaporated. The residue is then purified on a column of silica with ethyl acetate as eluant in order to obtain 7.6 g of the desired compound in the form of the free base (yield: 97%). The oxalic acid salt is then formed in ethyl acetate and recovered by filtration.

reactant | 2-n-butyl 7-carbethoxy indolizine | 38 mmoles, 0.35 g | C(CCC)C=1C=C2C=C(C=CN2C1)C(=O)OCC | C15H19NO2
reactant | 4-(3-di-n-butylamino-propoxy) benzoyl chloride | 38 mmoles, 14.2 g | C(CCC)N(CCCOC1=CC=C(C(=O)Cl)C=C1)CCCC | C18H28ClNO2
reactant | water | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-n-butyl 3-[4-(3-di-n-butylamino-propoxy)benzoyl] 7-carbethoxy indolizine | 7.6 g | C(CCC)C=1C=C2C=C(C=CN2C1C(C1=CC=C(C=C1)OCCCN(CCCC)CCCC)=O)C(=O)OCC | C33H46N2O4
